US05273999
A solution of 0.62 g (2 mmol) of 2[(5-hydroxypentyl)oxy]-5-acetylbenzenepropanoic acid methyl ester and 2 mL of triethylamine, in 6 mL of ethyl acetate was stirred with ice-bath cooling while 0.6 mL of methanesulfonyl chloride was added dropwise. The resulting mixture was stirred at 0°-5° C. for 1.33 hr and then poured into ice-3N HCl. Work-up with ethyl acetate in the usual manner gave 0.96 g of 2-[[5-(methylsulfonyl)oxy]pentyl]oxy]-5-acetylbenzenepropanoic acid methyl ester as an oil which was used without further purification.

reactant | 2[(5-hydroxypentyl)oxy]-5-acetylbenzenepropanoic acid methyl ester | 2 mmol, 0.62 g | COC(CCC1=C(C=CC(=C1)C(C)=O)OCCCCCO)=O | C17H24O5
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.6 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | 6 mL | C(C)(=O)OCC | C4H8O2
product | 5-acetylbenzenepropanoic acid methyl ester | COC(CCC1=CC=CC(=C1)C(C)=O)=O | C12H14O3
